US06057337
1,4-Dioxane solution of 2-(1-octadecyl-2-piperidyl)ethan-1-ol and p-toluenesulfonyl chloride is added to sodium hydroxide solution and then the mixture is reacted at room temperature to obtain 1-octadecyl-2-[2-(tosyloxy)ethyl]piperidine.

reactant | 2-(1-octadecyl-2-piperidyl)ethan-1-ol | C(CCCCCCCCCCCCCCCCC)N1C(CCCC1)CCO | C25H51NO
reactant | p-toluenesulfonyl chloride | C1(=CC=C(C=C1)S(=O)(=O)Cl)C | C7H7ClO2S
reactant | sodium hydroxide | [OH-].[Na+]
solvent | 1,4-Dioxane | O1CCOCC1 | C4H8O2
product | 1-octadecyl-2-[2-(tosyloxy)ethyl]piperidine | C(CCCCCCCCCCCCCCCCC)N1C(CCCC1)CCOS(=O)(=O)C1=CC=C(C)C=C1 | C32H57NO3S
